reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:4](=[C:5]([O:6][H:8])[H:14])([H:12])[H:13].[O:1]([C:2](=[C:3]([H:10])[H:11])[H:9])[H:7]>>[O:1]([C:2]([C:3]([C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])[H:7],38.051895431363604
[O:1]=[C:2]([C@@:3]1([H:9])[C:4]([H:10])([H:11])[N:5]1[C:6](=[O:7])[H:12])[H:8]>>[O:1]=[C:2]=[C:3]([C:4](/[N:5]=[C:6](\[O:7][H:8])[H:12])([H:10])[H:11])[H:9],54.8001867407354
[C:1]([C@@:2]([C:3]#[N:4])([C:5](=[O:6])[C:7]([H:12])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([C:3]#[N:4])([C@@:5]1([H:13])[O:6][C:7]1([H:12])[H:14])[H:11])([H:8])([H:9])[H:10],97.7246068117839
[O:1](/[C:2](=[C:3](\[O:4][H:7])[C:5]#[C:6][H:10])[H:8])[H:9]>>[O:1]([C:2]([C:3](=[O:4])[C:5]#[C:6][H:10])([H:8])[H:9])[H:7],58.58330674605622
[C:1]([C:2]([N:6]=[C:5]=[C:3]=[O:4])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3](=[O:4])[C:5]#[N:6])([H:10])[H:11])([H:7])([H:8])[H:9],53.253762165123
[C:1]([C:2]([O:3][C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[H:11])([H:7])([H:8])[H:9].[C:4](=[C:5]([O:6][H:10])[H:14])([H:12])[H:13],59.2144866148045
[N:1]([C:2](=[O:3])[C:4]([C:5]#[C:6][H:11])([H:9])[H:10])([H:7])[H:8]>>[N:1]([C-:2]=[O+:3][C:4]([C:5]#[C:6][H:11])([H:9])[H:10])([H:7])[H:8],107.507585562504
[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@@:4]2([O:5][H:12])[C:6]([H:13])([H:14])[C@@:7]12[H:15])[H:8]>>[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@:7]1([C:6]([C:4][O:5][H:12])([H:13])[H:14])[H:15])[H:8],68.1919087124974
[O:1]=[C:2]([C:3]([N:4]([C:5][O:6][H:11])[H:10])([H:8])[H:9])[H:7]>>[O:1]=[C:2]([C:3]([N:4]([C:5](=[O:6])[H:11])[H:10])([H:8])[H:9])[H:7],33.8186685903551
[C:1]([O:2][C@@:6]1([H:17])[C:3]([C:4]([H:11])([H:12])[H:13])([C:5]([H:14])([H:15])[H:16])[O:7]1)([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3]([C:4]([H:11])([H:12])[H:13])([C:5]([H:14])([H:15])[H:16])[C:6](=[O:7])[H:17])([H:8])([H:9])[H:10],51.5904470551995
[C:1]([O:2][C:3]([C:4]([C:5]([H:13])([H:14])[H:15])([C:6]([H:16])([H:17])[H:18])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([O:2][H:15])([H:7])([H:8])[H:9].[C:3]1([H:10])([H:11])[C:4]([C:6]([H:16])([H:17])[H:18])([H:12])[C:5]1([H:13])[H:14],95.83570937984051
[C:1]([C:2][C:4]([H:12])([H:13])[H:14])([H:5])([H:6])[H:7].[C:3]([H:8])([H:9])([H:10])[H:11]>>[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([H:12])([H:13])[H:14])[H:8])([H:5])([H:6])[H:7],8.828526355949592
[N:1](=[C:2]=[C:7]([C:6](=[O:5])[H:9])[H:10])[H:8].[N:3]#[N:4]>>[N:1](=[C:2]=[C:7]([C@:6]1([H:9])[N:4]=[N:3][O:5]1)[H:10])[H:8],107.18119577058
[C:1](/[C:2](=[N:3]/[C:4]([O:5][C:6]([H:13])([H:14])[H:15])([H:10])[H:12])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](/[N:3]=[C:4](/[O:5][C:6]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],67.2589263412683
[C:1]([O:2][C:3]([C:4]([H:11])([H:12])[H:13])([C:5]([H:14])([H:15])[H:16])[C:6]#[C:7][H:17])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3]([C:4]([H:11])([H:12])[H:13])=[C:6]=[C:7]([C:5]([H:14])([H:15])[H:16])[H:17])([H:8])([H:9])[H:10],88.5901998203027
[C:1]([C:2]([O:3][C:4]([O+:6]=[C-:5][H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([O:3][C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],44.0315881139102
[C:1]([O:2][C:3](=[O:4])[O+:6]=[C-:5][H:10])([H:7])([H:8])[H:9]>>[C:1]([O:2][C:3](=[O:4])[C:5](=[O:6])[H:10])([H:7])([H:8])[H:9],16.711761033185105
[C:1]1([H:4])([H:5])[C:2]([H:6])([H:7])[O:3]1>>[C:1]([O+:3]=[C-:2][H:7])([H:4])([H:5])[H:6],77.1730237005348
[C:1]([C:2](/[N:3]=[C:4](/[O:5][C:6]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([H:7])([H:8])([H:9])[H:12].[C:2](=[N+:3]=[C-:4][O:5][C:6]([H:13])([H:14])[H:15])([H:10])[H:11],88.21681530134329
[C:2]1([H:8])([H:9])[C@:3]([C:5]([O:6][H:14])([H:12])[H:13])([H:10])[O:4]1.[O:1]([H:7])[H:11]>>[O:1]([C:2]([C:3]([O:4][H:11])([C:5]([O:6][H:14])([H:12])[H:13])[H:10])([H:8])[H:9])[H:7],53.580474771137396
[C:1]([N:2]([C:3](=[O:4])[C:5]([H:10])([H:11])[H:12])[H:9])([H:6])([H:7])[H:8]>>[C+:1]([N:2]([C:3]([O-:4])=[C:5]([H:11])[H:12])[H:9])([H:7])[H:8].[H:6][H:10],96.06559832804709
[N:1](=[C:2]1/[C:3]([H:8])([H:9])[O:4][C:5]([H:10])([H:11])[O:6]1)\[H:7]>>[N:1]#[C:2][C:3]([O:4][C:5]([O:6][H:7])([H:10])[H:11])([H:8])[H:9],67.4202327955585
[C:1]1([H:5])([H:7])[C:2]([H:8])([H:9])[C:3]1=[C:4]([H:6])[H:10]>>[C:1]([C:2]([C:3]#[C:4][H:10])([H:8])[H:9])([H:5])([H:6])[H:7],97.19038764185761
[C:1]([N:2](/[C:3]([O:4]/[C:6](=[N:7]/[H:14])[H:13])=[N:5]\[H:12])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2]([C:3](=[O:4])[N:5](/[C:6](=[N:7]/[H:14])[H:13])[H:12])[H:11])([H:8])([H:9])[H:10],30.042704618383702
[C:1]([N:2](/[C:3](=[N:4]\[H:12])[C:5](=[O:6])[C:7]([H:13])([H:14])[H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2](/[C:3](=[N:4]\[H:12])[H:13])[H:11])([H:8])([H:9])[H:10].[C:5](=[O:6])=[C:7]([H:14])[H:15],85.2525226450685
